US03932452
1-(2-Naphthylmethyl)-2-imidazolidinone
A 21.5g (0.25 mole) portion of 2-imidazolidinone in 250 ml of dimethylsulfoxide was treated with 34.5 g (0.25 mole) of K2CO3, 20 g (0.12 mole) of KI and 44.3 g (0.25 mole) of 2-(chloromethyl)-naphthalene. The reaction mixture was heated to 105° over 0.3 hours, held at 105°-110° for 1.8 hours and poured with rapid stirring into 1.5 l of water. The aqueous mixture was extracted with 1.3 l of chloroform. The chloroform extract was washed with 500 ml of water, dried over MgSO4 overnight and filtered. The filtrate was concentrated to dryness to give 31.5 g (56%) of a light yellow solid, m.p. 102 soften, 120°-138°.

reactant | 2-imidazolidinone | N1C(NCC1)=O | C3H6N2O
reactant | K2CO3 | 0.25 mole, 34.5 g | C(=O)([O-])[O-].[K+].[K+]
reactant | 2-(chloromethyl)-naphthalene | 0.25 mole, 44.3 g | ClCC1=CC2=CC=CC=C2C=C1 | C11H9Cl
reactant | water | 1.5 l | O | H2O
solvent | dimethylsulfoxide | 250 ml | CS(=O)C | C2H6OS
product | 1-(2-Naphthylmethyl)-2-imidazolidinone | 31.5 g, 56% | C1=C(C=CC2=CC=CC=C12)CN1C(NCC1)=O | C14H14N2O
